US06486156B1
A solution of methyl 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoate (0.9 g; 2.54 mmol) and 2N sodium hydroxide solution (3.8 ml) in methanol was heated at reflux for 7 hours. After evaporation of the solvent and neutralisation to pH 6.5 with 6N HCl, the residue was purified on reverse phase silica eluting with methanol/ammonium carbonate buffer (2 g/l, pH 7) (50/50) to give 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoic acid after freeze-drying. Yield: 49%.

reactant | methyl 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoate | 2.54 mmol, 0.9 g | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=C(C=C(C=C1)F)F | C20H16F2N2O2
reactant | sodium hydroxide | 2N, 3.8 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(2,4-difluorophenyl)benzoic acid | Yield: 49% | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)O)C=C1)C1=C(C=C(C=C1)F)F | C19H14F2N2O2
